US05399578
The starting material can be obtained, for example, analogously to Example 1b): Reaction of 4.0 g of 2'-cyanobiphenyl-4-carbaldehyde, 19.3 g of molecular sieve 5 A, 3.8 g of (D)-valine methyl ester hydrochloride and 1.43 g of sodium cyanoborohydride yields N-[(2'-cyanobiphenyl-4-yl)methyl]-(D)-valine methyl ester after flash chromatography (N3). (TLC: N2) Rf : 0.56.

reactant | 2'-cyanobiphenyl-4-carbaldehyde | 4.0 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)C=O | C14H9NO
reactant | (D)-valine methyl ester hydrochloride | 3.8 g | Cl.COC([C@H](N)C(C)C)=O
reactant | sodium cyanoborohydride | 1.43 g | C(#N)[BH3-].[Na+]
product | N-[(2'-cyanobiphenyl-4-yl)methyl]-(D)-valine methyl ester | COC([C@H](NCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C(C)C)=O | C20H22N2O2
